US08217064B2
To a solution of 2-(4-hydroxy-3-nitro-5-trifluoromethyl-phenyl)-4-methyl-pentanoic acid ethyl ester (2.66 g, 7.62 mmol), cyclopropanemethanol (0.60 g, 8.38 mmol) and triphenylphosphine (2.40 g, 9.14 mmol) in anhydrous THF (32 mL) was added diethyl azodicarboxylate (40 wt % solution in toluene, 3.98 g, 9.14 mmol) dropwise. The reaction mixture was stirred at room temperature for two days and then concentrated under reduced pressure. The residue was triturated with THF/hexane (1:5, 3×15 mL). The combined extracts were concentrated under reduced pressure to give a yellow solid, which was purified by silica-gel flash chromatography eluting with heptane/ethyl acetate (60:1 and then 10:1) to give 2-(4-cyclopropylmethoxy-3-nitro-5-trifluoromethyl-phenyl)-4-methyl-pentanoic acid ethyl ester (1.89 g, 61%) as a colorless oil: 1H NMR (300 MHz, CDCl3): δ 7.92 (s, 1 H), 7.73 (s, 1 H), 4.06 (m, 2 H), 3.79 (d, 2H, J=7.2 Hz), 3.64 (t, 1 H, J=7.5 Hz), 1.93 (m, 1 H), 1.55 (m, 1 H), 1.40 (m, 1 H), 1.24 (m, 1 H), 1.17 (t, 3 H, J=6.9 Hz), 0.86 (m, 6 H), 0.56 (d, 2 H, J=6.6 Hz), 0.27 (m, 2 H); 13C NMR (75 MHz, CDCl3): δ 172.49, 149.98, 144.40, 135.55, 130.96 (q, J=5 Hz), 128.29, 126.77, (q, J=31 Hz), 122.37 (q, J=272 Hz), 82.03, 61.37, 48.74, 42.66, 26.04, 22.36, 22.32, 14.14, 10.66, 3.39.

reactant | 2-(4-hydroxy-3-nitro-5-trifluoromethyl-phenyl)-4-methyl-pentanoic acid ethyl ester | 7.62 mmol, 2.66 g | C(C)OC(C(CC(C)C)C1=CC(=C(C(=C1)C(F)(F)F)O)[N+](=O)[O-])=O | C15H18F3NO5
reactant | cyclopropanemethanol | 8.38 mmol, 0.60 g | C1(CC1)CO | C4H8O
reactant | triphenylphosphine | 9.14 mmol, 2.40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 9.14 mmol, 3.98 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 32 mL | C1CCOC1 | C4H8O
product | 2-(4-cyclopropylmethoxy-3-nitro-5-trifluoromethyl-phenyl)-4-methyl-pentanoic acid ethyl ester | 1.89 g, 61% | C(C)OC(C(CC(C)C)C1=CC(=C(C(=C1)C(F)(F)F)OCC1CC1)[N+](=O)[O-])=O | C19H24F3NO5
